US05039333
Preparation of 7-(1,3-Dioxolan-2-yl)-2-isopropyl-2-methyl-5H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-3(2H), 5-dione
A solution of 5-(1,3-dioxolan-2-yl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid (1.0 g, 0.003 mol) and dicyclohexylcarbodiimide (0.65 g, 0.003 mol) in tetrahydrofuran (5 mL) is stirred at reflux temperature for 1.5 hours. After cooling, the reaction mixture is filtered. The filtrate is concentrated in vacuo to afford the title compound (0.68 g, 72%) as a pale yellow solid, mp 102°-104° C., identified by IR and NMR spectral analyses.

reactant | 5-(1,3-dioxolan-2-yl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid | 0.003 mol, 1.0 g | O1C(OCC1)C=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C16H19N3O5
reactant | dicyclohexylcarbodiimide | 0.003 mol, 0.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 7-(1,3-Dioxolan-2-yl)-2-isopropyl-2-methyl-5H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-3(2H), 5-dione | 0.68 g, 72% | O1C(OCC1)C=1C=C2C(=NC1)C=1N(C2=O)C(C(N1)(C)C(C)C)=O | C16H17N3O4
